US08791132B2
To a solution of 2-(1,2,3,4-tetrahydro-8-methylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethanol (200 mg, 0.652 mmol) and sodium 2-bromoethanesulfonate (164 mg, 0.78 mmol) in DMF (3 mL) and water (0.5 mL), were added sodium bicarbonate (164 mg, 1.95 mmol) and potassium iodide (128 mg, 0.78 mmol) and the reaction mixture was stirred at 90° C. for 2 h. The reaction mixture was diluted with water and extracted with DCM. The aqueous layer was neutralized with aq HCl and the solid obtained was recrystallized from MeOH to yield 2-(3,4-dihydro-5-(2-hydroxy-2-(pyridin-4-yl)ethyl)-8-methyl-1H-pyrido[4,3-b]indol-2(5H)-yl)ethanesulfonic acid as a white solid (80 mg). 1H NMR (CD3OD, Free base) δ (ppm): 8.45 (d, 2H), 7.40 (d, 2H), 7.26 (s, 1H), 7.23 (d, 1H), 7.00 (s, 1H), 5.06 (t, 1H), 4.59 (m, 2H), 4.29 (m, 2H), 3.71 (t, 4H), 3.55 (m, 2H), 3.0 (d, 1H), 2.4 (s, 3H). Separation by chiral HPLC provides enantiomers II-97a-b.

reactant | 2-(1,2,3,4-tetrahydro-8-methylpyrido[4,3-b]indol-5-yl)-1-(pyridin-4-yl)ethanol | 0.652 mmol, 200 mg | CC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC=NC=C1)CCNC3 | C19H21N3O
reactant | sodium 2-bromoethanesulfonate | 0.78 mmol, 164 mg | BrCCS(=O)(=O)[O-].[Na+]
reactant | sodium bicarbonate | 1.95 mmol, 164 mg | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 0.78 mmol, 128 mg | [I-].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | 2-(3,4-dihydro-5-(2-hydroxy-2-(pyridin-4-yl)ethyl)-8-methyl-1H-pyrido[4,3-b]indol-2(5H)-yl)ethanesulfonic acid | 80 mg | OC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)CCS(=O)(=O)O)C2=CC=NC=C2 | C21H25N3O4S
